US07678795B2
3-(2-Methoxy-phenyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
yellow oil. MS (EI): 268.2 (M+). Prepared from cyclooctane-1,2-dione, [2-(2-Methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | [2-(2-Methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=CC=C1)OC | C11H15O5P
reactant | hydrazine monohydrate | O.NN
product | 3-(2-Methoxy-phenyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | COC1=C(C=CC=C1)C1=CC2=C(N=N1)CCCCCC2 | C17H20N2O
